US09351965B2
Preparation of tert-Butyl 3-(2-fluorobenzyl)-3-(hydroxymethyl)piperidine-1-carboxylate
In a flask, 1-tert-butyl 3-methyl 3-(2-fluorobenzyl)piperidine-1,3-dicarboxylate (1.41 g, 4.0 mmol) was dissolved in tetrahydrofuran (20 mL). Lithium aluminum hydride (8.03 mmol) was added to the flask. The reaction was stirred for an hour at room temperature. Upon completion, the reaction was quenched with ethyl acetate (10 ml) drop-wise. Water (30 mL) was added to the reaction. The reaction mixture then was extracted 3 times with ethyl acetate (50 mL). The organic layers were combined, were dried with sodium sulfate, concentrated and purified using flash chromatography (0 60% ethyl acetate in hexane) to give the titled compound (1.29 g).

reactant | 1-tert-butyl 3-methyl 3-(2-fluorobenzyl)piperidine-1,3-dicarboxylate | 4.0 mmol, 1.41 g | FC1=C(CC2(CN(CCC2)C(=O)OC(C)(C)C)C(=O)OC)C=CC=C1 | C19H26FNO4
reactant | Lithium aluminum hydride | 8.03 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-(2-fluorobenzyl)-3-(hydroxymethyl)piperidine-1-carboxylate | 1.29 g | FC1=C(CC2(CN(CCC2)C(=O)OC(C)(C)C)CO)C=CC=C1 | C18H26FNO3
